US07482341B2
N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (2.03 g) in CH2Cl2 (75 mL) was treated at RT with thionyl chloride (1.785 mL) and then heated to reflux for 1.5 h. The reaction mixture was cooled to RT and partitioned between water and AcOEt, the layers were separated, the organic layer dried over MgSO4, filtered and evaporated to give N-(6-chloromethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.66 g) as a brown liquid. MS (ESI): 227.2 (MH+).

reactant | N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 2.03 g | OCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | thionyl chloride | 1.785 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | N-(6-chloromethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.66 g | ClCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H15ClN2O
